US04775692
To a solution of diisopropylamine (9.0 ml, 64.4 mmol) in 100 ml anhydrous THF was added dropwise n-butyl lithium (1.61N, 40.0 ml, 64.4 mmol) at -78° C. under argon atmosphere. The mixture was stirred at -78° C. for 30 minutes and ethyl nonanoate (10.00 g, 53.7 mmol) was added dropwise. After stirring the mixture at -78° C. for 30 minutes, a solution of methyl iodide (3.7 ml, 59.1 mmol) in HMPA (2.8 ml, 16.1 mmol) was added dropwise and the mixture was stirred at -78° C. for 3.5 hours. Saturated aqueous solution of ammonium chloride (20 ml) was added to the reaction mixture and the resulting mixture was then extracted with ether (50 ml×4). The ether layers were washed with water (50 ml) and with brine (50 ml), dried over anhydrous sodium sulfate, and concentrated. Distillation gave yellow liquid, ethyl 2-methylnonanoate (9.6892 g, yield: 90.1%, b.p.: 63°-64° C./0.7 mmHg). The structure of this product was confirmed by the following data.

reactant | diisopropylamine | 64.4 mmol, 9.0 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 64.4 mmol, 1.61N, 40.0 ml | C(CCC)[Li]
reactant | ethyl nonanoate | 53.7 mmol, 10.00 g | C(CCCCCCCC)(=O)OCC | C11H22O2
reactant | methyl iodide | 59.1 mmol, 3.7 ml | CI | CH3I
reactant | HMPA | 16.1 mmol, 2.8 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | ethyl 2-methylnonanoate | 9.6892 g, yield: 90.1% | CC(C(=O)OCC)CCCCCCC | C12H24O2
